US05041641
To an ice-cooled solution of 10.51 g of (R)-(+)-2,3,4,5,6-pentafluorostyrene oxide was dissolved in 100 ml of tetrahydrofuran, was added dropwise a solution of Li2CuCl4, which was prepared by adding 10.08 g of cupric chloride to a suspension of 6.36 g of lithium chloride in 150 ml of tetrahydrofuran. After completion of addition, the solution was stirred for 20 hours at room temperature. The resulted reaction mixture was poured into a 0.05 mol phosphate buffer, and was extracted with ether. The resulted extract was dried over magnesium sulfate, and the solvent was distilled off under reduced pressure, thereby obtaining 12.00 g of (R)-(-)-2-chloro-1-(pentafluorophenyl)ethanol containing 20% of (+)-2-chloro-2-(pentafluorophenyl)ethanol. This was subjected to isolation by silica gel column chromatography, thereby obtaining (R)-(-)-2-chloro-1-(pentafluorophenyl)-ethanol and (+)-2-chloro-2-(pentafluorophenyl)ethanol respectively possessing the aforementioned physical properties.

reactant | (R)-(+)-2,3,4,5,6-pentafluorostyrene oxide | 10.51 g | FC1=C([C@@H]2CO2)C(=C(C(=C1F)F)F)F | C8H3F5O
reactant | lithium chloride | 6.36 g | [Cl-].[Li+]
reactant | phosphate | 0.05 mol | P(=O)([O-])([O-])[O-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (R)-(-)-2-chloro-1-(pentafluorophenyl)ethanol | 12.00 g, 20% | ClC[C@H](O)C1=C(C(=C(C(=C1F)F)F)F)F | C8H4ClF5O
